US03991199
The compound 1,1-diphenylhydrazine is commercially available. The substituted 1,1-diphenylhydrazines can be made by reacting the corresponding 1,1-diarylamine with sodium nitrite and hydrochloric acid in dimethylformamide at about 10° C. to produce an N-nitrosodiphenylamine, then adding the N-nitroso compound in tetrahydrofuran to a suspension of lithium aluminum hydride in dry ether under nitrogen and maintaining the temperature at 25°-35° C. for about 11/2 hours. The procedure is analogous to that given for preparation of N-amino-iminodibenzyl in Cohen et al., U.S. Pat. No. 3,457,271.

reactant | 1,1-diphenylhydrazine | C1(=CC=CC=C1)N(N)C1=CC=CC=C1 | C12H12N2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-nitrosodiphenylamine | N(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2O
